Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Actonel / bupropion / Celexa / Pneumovax 23 / venlafaxine
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old woman with Stage III, low-grade, high-risk by 
FLIPI-1
score Follicular Lymphoma (with FISH negative for t(14;18) and
IgK/IgL rearrangements, but with gain of BCL2 and MYC) s/p
chlorambucil/prednisone x 1 cycle, triple-negative Essential
Thrombocythemia (previously on hydroxyurea and aspirin,
hydroxyurea currently on hold), and chronic renal insufficiency
of uncertain etiology, who presents with nausea.
The patient states she started having severe nausea this
afternoon followed by vomiting. She states she felt dizzy as 
well
but this is more likely lightheadedness as she states it is not
like her previous vertigo with the room spinning but just a
feeling with the nausea. She denies any abdominal pain. She
denies any recent fevers, shortness of breath, cough, dysuria, 
or
rashes. She states until today she has been eating and drinking
well. She thinks some of the nausea may be related to the
allopurinol. 
In the ED labwork was notable for a WBC of 15.1. A head CT was
unremarkable and a chest x-ray showed a possible pneumonia. She
was given IV fluids, Zofran, azithromycin, and ceftriaxone. 

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.
 
Past Medical History:
- Essential Thromobocythemia (negative for JAK2 V617F, CALR, and
MPL mutations) 
- Chronic renal insufficiency, etiology uncertain but patient 
was
told by other providers that this was secondary to risedronate 
- Iron deficiency anemia
- Pernicious anemia
- Hypercholesterolemia
- Hyperglycemia
- Follicular lymphoma
- Hypothyroidism
- Osteoporosis
- Tremor
 
Social History:
___
Family History:
Mother died of lung cancer at age ___. Father died
of lung cancer at age ___ (had a long smoking history). Brother
had a stroke. Sister had endometrial cancer in her ___. Another
sister had a disease that might have been Essential
Thrombocythemia, and was on hydroxyurea. Has two daughters, both
healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: T 98.1 BP 160/85 HR 64 RR 18 O2 96%RA
GENERAL: NAD
HEENT: Anicteric, EOMI, OP clear.
CARDIAC: RRR, normal s1/s2.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally.
ABD: Soft, non-tender, non-distended, no hepatomegaly, no
splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, no focal deficits.
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.3
PO 140 / 72 59 18 97 RA 
GENERAL: NAD
HEENT: Anicteric, EOMI, OP clear.
CARDIAC: RRR, normal s1/s2.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally.
ABD: Soft, non-tender, non-distended, no hepatomegaly, no
splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, no focal deficits.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:00PM   GLUCOSE-150* UREA N-25* CREAT-1.4* SODIUM-135 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-25 ANION GAP-15
___ 01:00PM   ALT(SGPT)-21 AST(SGOT)-14 LD(LDH)-155 ALK 
PHOS-43 TOT BILI-0.3
___ 01:00PM   CALCIUM-8.3* PHOSPHATE-3.2 MAGNESIUM-2.1 URIC 
ACID-2.7
___ 01:00PM   WBC-8.8 RBC-3.56* HGB-12.4 HCT-36.5 MCV-103* 
MCH-34.8* MCHC-34.0 RDW-13.5 RDWSD-51.1*
___ 01:00PM   PLT COUNT-373
___ 01:00PM   ___ PTT-27.6 ___
___ 01:45AM   GLUCOSE-90 UREA N-31* CREAT-1.3* SODIUM-135 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-21* ANION GAP-17
___ 12:16AM   ___ COMMENTS-GREEN TOP
___ 12:16AM   LACTATE-2.0
___ 12:02AM   GLUCOSE-90 UREA N-32* CREAT-1.4* SODIUM-131* 
POTASSIUM-6.2* CHLORIDE-98 TOTAL CO2-20* ANION GAP-19
___ 12:02AM   estGFR-Using this
___ 12:02AM   LD(LDH)-475*
___ 12:02AM   ALT(SGPT)-33 AST(SGOT)-72* ALK PHOS-34* TOT 
BILI-0.3
___ 12:02AM   URIC ACID-2.5
___ 12:02AM   ALBUMIN-3.5 CALCIUM-8.3* PHOSPHATE-3.5 
MAGNESIUM-2.0
___ 12:02AM   WBC-15.1* RBC-3.55* HGB-12.2 HCT-36.7 
MCV-103* MCH-34.4* MCHC-33.2 RDW-13.5 RDWSD-51.7*
___ 12:02AM   NEUTS-86.7* LYMPHS-2.2* MONOS-9.6 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-13.09* AbsLymp-0.33* 
AbsMono-1.45* AbsEos-0.05 AbsBaso-0.05
___ 12:02AM   PLT COUNT-382
___ 11:32PM URINE  HOURS-RANDOM
___ 11:32PM URINE  UHOLD-HOLD
___ 11:32PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:32PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:32PM URINE  RBC-<1 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 11:32PM URINE  MUCOUS-RARE

IMAGING:
___: IMPRESSION:  
  
No evidence of an acute intracranial abnormality. 

CXR: IMPRESSION:  
  
Right lower lobe pneumonia more likely than atelectasis. 

DISCHARGE LABS:
==============
___ 05:40AM BLOOD WBC-7.4 RBC-3.51* Hgb-12.2 Hct-36.2 
MCV-103* MCH-34.8* MCHC-33.7 RDW-13.2 RDWSD-49.9* Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD ___ PTT-33.3 ___
___ 05:40AM BLOOD Glucose-102* UreaN-18 Creat-1.3* Na-135 
K-4.4 Cl-101 HCO3-24 AnGap-14
___ 05:40AM BLOOD ALT-21 AST-16 LD(LDH)-157 AlkPhos-45 
TotBili-0.3
___ 05:40AM BLOOD Calcium-8.6 Phos-4.1 Mg-2.2 UricAcd-3.___ yo female with a history of follicular lymphoma and essential
thrombocythemia who is admitted with nausea/vomiting and 
dizziness. 

Lightheadedness/dizziness: NCHCT negative. No vertiginous 
symptoms reported. Likely iso poor PO intake and resulting 
orthostasis vs. medication induced. Orthostatics negative but 
difficult to interpret in the setting of beta blockade. Offered 
vestibular ___ but patient declined. Evaluated by neurology who 
felt there was no evidence of vertigo or other CNS signs to 
suggest a peripheral vestibular system pathology or central 
posterior circulation stroke. TLS labs unremarkable. Allopurinol 
dose reduced to 100 mg (patient preferred 50 mg BID) daily. 

Nausea: Possibly due to recent follicular lymphoma treatment. 
Could be
due to infection but no other focal symptoms. Received IVF while 
here. Resolved with Zofran and Compazine. Tolerating PO on 
discharge.

? Pneumonia: Patient denies symptoms but had a leukocytosis and 
chest x-ray with possible evidence of infection. Leukocytosis 
could be
thought to be due to hemoconcentration vs. related to steroid 
use. Received a 1x dose of CTX, azithro in the ED. Not continued 
on the floor. Resolved on discharge. 

Follicular Lymphoma: On obinutuzumab/chlorambucil. Continued 
home allopurinol, but dose adjusted for renal function.

Essential Thrombocythemia: Hydroxyurea being held while getting 
treatment for follicular lymphoma.

Hypothyroidism: TSH 9.0 on check, normal FT4. Levothyroxine 
initially increased to 100mg daily but then discharged on home 
dose of Levothyroxine at 75 mcg daily. 

Tremors: Continued home atenolol. 

TRANSITIONAL ISSUES
===================
[] Allopurinol reduced to 100 mg daily, on 50 mg BID as per 
patient preference. Adjust as needed. 
[] TSH 9.0. Levothyroxine dose to at 75 mcg. Please follow and 
adjust dose as necessary. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atenolol 12.5 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN Nausea 
5. Cyanocobalamin Dose is Unknown  PO DAILY 
6. Calcium 500 + D (calcium carbonate-vitamin D3) Dose is 
Unknown  oral DAILY 

 
Discharge Medications:
1.  Allopurinol 50 mg PO BID 
RX *allopurinol ___ mg 0.5 (One half) tablet(s) by mouth Half a 
tablet daily Disp #*30 Tablet Refills:*0 
2.  Calcium 500 + D (calcium carbonate-vitamin D3) unknown  oral 
DAILY  
3.  Cyanocobalamin unknown  PO DAILY  
4.  Atenolol 12.5 mg PO DAILY  
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6.  Ondansetron 8 mg PO Q8H:PRN Nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
==================
Nausea/vomiting
Presyncope, dizziness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with dizziness and nausea. Your 
nausea improved with medications. We reduced the dose of your 
medications which we thought may be causing your dizziness. You 
were evaluated by neurology who recommended staying hydrated. 
You were also evaluated by physical therapy who felt you were 
safe for home. It is now safe for you to go home. It was a 
pleasure caring for you. 

Wishing you the best,

Your ___ Team
 
Followup Instructions:
___